US04035468
reacting solid uranium trioxide with aqueous ammonium nitrate to form an insoluble ammonium uranate

reactant | uranium trioxide | [O-2].[O-2].[O-2].[U+6]
reactant | ammonium nitrate | [N+](=O)([O-])[O-].[NH4+]
product | ammonium uranate | [NH4+].[NH4+].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[U].[U] | InChI=1S/2H3N.7O.2U/h2*1H3;;;;;;;;;/q;;7*-2;;/p+2
